US04238498
44 g (0.15 mol) of 2-chlorophenyl-1,2,3,4-tetrahydronaphth-6-yl-chloromethane, dissolved in 50 ml of 1,2-dichlorobenzene, are added dropwise to a suspension of 51 g (0.75 mol) of imidazole in 100 ml of 1,2-dichlorobenzene at 180° C. The reaction mixture is heated to 180° C. for 2 hours and, after cooling, is poured onto water and the organic phase is diluted with methylene chloride and washed with water. After drying the solution over sodium sulphate, it is evaporated in vacuo. 26.8 g (55% of theory) of 2-chlorophenyl-imidazol-1-yl-1,2,3,4-tetrahydronaphth-6-yl-methane of refractive index nD20 =1.6000 are obtained.

reactant | 2-chlorophenyl-1,2,3,4-tetrahydronaphth-6-yl-chloromethane | 0.15 mol, 44 g | ClC1=C(C=CC=C1)C(Cl)C=1C=C2CCCCC2=CC1 | C17H16Cl2
reactant | imidazole | 0.75 mol, 51 g | N1C=NC=C1 | C3H4N2
solvent | 1,2-dichlorobenzene | 50 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | 1,2-dichlorobenzene | 100 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-chlorophenyl-imidazol-1-yl-1,2,3,4-tetrahydronaphth-6-yl-methane | 26.8 g, 55% | ClC1=C(C=CC=C1)C(C=1C=C2CCCCC2=CC1)N1C=NC=C1 | C20H19ClN2
